US09399638B2
Intermediate-34: N-(6-bromo-4-methylpyridin-3-yl)-2,6-difluorobenzamide
To a (0° C.) cooled and stirred solution of 2,6-difluorobenzoyl chloride (357 μL, 2.83 mmol) in DCM (5 mL) was added 6-bromo-4-methylpyridin-3-amine (583 mg, 3.12 mmol) followed by the addition of pyridine (344 μL, 4.25 mmol). The resulting mixture was then stirred at room temperature overnight. Water (5 mL) was added to the above mixture and then extracted with DCM (3×10 mL). The combined organic layers were washed with 10% aq.HCl (10 mL), dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum to afford 650 mg (70%) of the title compound as a white solid. 1HNMR (400 MHz, DMSO-d6) δ 10.56 (s, 1H, D2O exchangeable), 8.41 (s, 1H), 7.66 (s, 1H), 7.65-7.58 (m, 1H), 7.27 (t, J=7.0 Hz, 2H), 2.27 (m, 3H); (ESI-MS (m/z) 327, 329 [(MH)+, Br79, 81].

reactant | 2,6-difluorobenzoyl chloride | 2.83 mmol, 357 μL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | 6-bromo-4-methylpyridin-3-amine | 3.12 mmol, 583 mg | BrC1=CC(=C(C=N1)N)C | C6H7BrN2
reactant | pyridine | 4.25 mmol, 344 μL | N1=CC=CC=C1 | C5H5N
reactant | Water | 5 mL | O | H2O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(6-bromo-4-methylpyridin-3-yl)-2,6-difluorobenzamide | 650 mg, 70% | BrC1=CC(=C(C=N1)NC(C1=C(C=CC=C1F)F)=O)C | C13H9BrF2N2O
